US05264454
To a solution of 3-(3,4-dimethoxycinnamoylamino)-4-(2-methylphenyl)-7,8-dihydrocylopenta[g][1]benzopyran-2(6H)-one (400 mg) in dichloromethane (6 ml) was added boron tribromidedichloromethane (1:2, 1 ml) dropwise with ice-cooling and stirring. The mixture was further stirred under ice-cooling for 1 hour and, then, added gradually to ethanol (5 ml) with ice-cooling. The mixture was diluted with water and extracted with ethyl acetate, the extract was washed with water and dried (MgSO4), and the solvent was distilled off to give crystals of 3-(3,4-dihydroxycinnamoylamino)-4-(2-methylphenyl)-7,8-dihydrocyclopenta[g][1]benzopyran-2(6H)-one (361 mg, 95.8%). Recrystallization from ethanol gave light brown prisms, m.p. 295°-297° C.

reactant | 3-(3,4-dimethoxycinnamoylamino)-4-(2-methylphenyl)-7,8-dihydrocylopenta[g][1]benzopyran-2(6H)-one | 400 mg | COC=1C=C(C=CC(=O)NC=2C(OC3=C(C2C2=C(C=CC=C2)C)C=C2C(=C3)CCC2)=O)C=CC1OC | C30H27NO5
reactant | boron | [B] | B
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-(3,4-dihydroxycinnamoylamino)-4-(2-methylphenyl)-7,8-dihydrocyclopenta[g][1]benzopyran-2(6H)-one | 361 mg, 95.8% | OC=1C=C(C=CC(=O)NC=2C(OC3=C(C2C2=C(C=CC=C2)C)C=C2C(=C3)CCC2)=O)C=CC1O | C28H23NO5
